US04049646
One suitable technique for preparing hydroxylamine sulfate is the classical Raschig process, described in Kirk-Othmer, Vol. 7 (1951), page 766, paragraph 4, Briefly, the classical Raschig process involves the reduction of sodium nitrite with sodium bisulfite and sulfur dioxide to give sodium hydroxylamine -N, N-disulfonate, followed by hydrolysis of the hot solution to give hydroxylammonium acid sulfate.

reactant | hydroxylamine sulfate | S(=O)(=O)(O)O.NO
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
product | sodium hydroxylamine -N, N-disulfonate | N(O)(S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/H3NO7S2.2Na/c2-1(9(3,4)5)10(6,7)8;;/h2H,(H,3,4,5)(H,6,7,8);;/q;2*+1/p-2
